US09340544B2
(2-Hydrazino-9-methyl-9H-purin-6-yl)-pyridin-4-yl-amine
Was prepared according to Example 8 from (2-chloro-9-methyl-9H-purin-6-yl)pyridin-4-yl-amine and hydrazine monohydrate.

reactant | (2-chloro-9-methyl-9H-purin-6-yl)pyridin-4-yl-amine | ClC1=NC(=C2N=CN(C2=N1)C)NC1=CC=NC=C1 | C11H9ClN6
reactant | hydrazine monohydrate | O.NN
product | (2-Hydrazino-9-methyl-9H-purin-6-yl)-pyridin-4-yl-amine | N(N)C1=NC(=C2N=CN(C2=N1)C)NC1=CC=NC=C1 | C11H12N8
